US04444775
Iodine crystals (1.9 g) are added to a well-stirred solution of 1.16 g of 5-(5-carboxypentyl)-imidazo[1,5-a]pyridine and 1.68 g of sodium bicarbonate in 10 ml of water and 1 ml of ethanol. Additional 4 ml of ethanol are added to dissolve the bulk of the iodine and stirring is continued for 45 minutes. The reaction mixture is diluted with 125 ml of water and extracted twice with methylene chloride at pH 8 (NaHCO3 added if necessary). The aqueous phase is concentrated in vacuo, charcoaled and adjusted to pH 4.5 with 2 N HCl. The precipitate is collected, dried and recrystallized from methanol/ether to give 1-iodo-5-(5-carboxypentyl)-imidazo[1,5-a]pyridine melting at 163°-165°.

reactant | Iodine crystals | 1.9 g | II | I2
reactant | 5-(5-carboxypentyl)-imidazo[1,5-a]pyridine | 1.16 g | C(=O)(O)CCCCCC1=CC=CC=2N1C=NC2 | C13H16N2O2
reactant | sodium bicarbonate | 1.68 g | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-iodo-5-(5-carboxypentyl)-imidazo[1,5-a]pyridine | IC=1N=CN2C1C=CC=C2CCCCCC(=O)O | C13H15IN2O2
